US07238386B2
hexanediol acrylate (HDODA);
a photoinitiator including IRGACURE 184 (1-hydroxycyclohexylphenyl ketone and an antioxidant including IRGANOX 1035 (a hindered polyphenol);

reactant | IRGACURE 184 | C1CCC(CC1)(C(=O)C2=CC=CC=C2)O | C13H16O2
reactant | 1-hydroxycyclohexylphenyl ketone | OC1(CCCCC1)C1=C(C=CC=C1)C(=O)C1=C(C=CC=C1)C1(CCCCC1)O | C25H30O3
reactant | IRGANOX 1035 | CC(C)(C)C1=CC(=CC(=C1O)C(C)(C)C)CCC(=O)OCCSCCOC(=O)CCC2=CC(=C(C(=C2)C(C)(C)C)O)C(C)(C)C | C38H58O6S
product | hexanediol acrylate | C(C=C)(=O)OC(CCCCC)O | C9H16O3
